US06462158B1
Methylcyclopentadiene (8.01 g: 100 mmol) was dissolved in methyl ethyl ketone (10 mL), to which acrylic acid (7.93 g: 110 mmol) was added dropwise at 0° C. over 1 hour. The thus-obtained mixture was stirred at room temperature for 3 hours. Light components, such as the solvent and unreacted acrylic acid, were then distilled off under reduced pressure from the reaction mixture, whereby methyl-5-norbornene-2-carboxylic acid (14.9 g: 98 mmol) was obtained.

reactant | Methylcyclopentadiene | 100 mmol, 8.01 g | CC1=CC=CC1 | C6H8
reactant | acrylic acid | 110 mmol, 7.93 g | C(C=C)(=O)O | C3H4O2
reactant | methyl ethyl ketone | 10 mL | C(C)C(=O)C | C4H8O
product | methyl-5-norbornene-2-carboxylic acid | 98 mmol, 14.9 g | CC12C(CC(C=C1)C2)C(=O)O | C9H12O2
